US06949542B2
7,8-Dichloro-4-(3-pyrazin-2-yl-phenyl)-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from commercially available 4,5-dichloro-1,2-phenylendiamine (177 mg, 1.0 mmol) and 3-oxo-3-(3-pyrazin-2-yl-phenyl)-propionic acid tert-butyl ester (Example K13) (298 mg, 1.0 mmol) in xylene (20 ml) under reflux conditions for 2 h according to the general procedure M. Obtained as a light red solid (258 mg, 67%).

reactant | 4,5-dichloro-1,2-phenylendiamine | 1.0 mmol, 177 mg | ClC1=CC(=C(C=C1Cl)N)N | C6H6Cl2N2
reactant | 3-oxo-3-(3-pyrazin-2-yl-phenyl)-propionic acid tert-butyl ester | 1.0 mmol, 298 mg | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)C1=NC=CN=C1)=O)=O | C17H18N2O3
solvent | xylene | 20 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 7,8-Dichloro-4-(3-pyrazin-2-yl-phenyl)-1,3-dihydro-benzo[b][1,4]diazepin-2-one | ClC1=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C2=NC=CN=C2)=O)C=C1Cl | C19H12Cl2N4O
